US09388161B2
Di-tert-butyl dicarbonate (1.09 g, 5.01 mmol) was added to a 0° C. solution of 2-methylpiperidin-4-one hydrochloride (1:1 mixture of isomers, 0.500 g, 3.34 mmol) and DMAP (0.817 g, 6.68 mmol) in dry THF (10 mL), and the resulting mixture was stirred at 0° C. for 2 h. The reaction was quenched by the addition of saturated aqueous ammonium chloride solution (50 mL) and ethyl acetate (70 mL) was added. The aqueous phase was separated and extracted with ethyl acetate (2×50 mL). The combined organic layers were washed with brine (50 mL), dried over anhydrous sodium sulfate, filtered, and concentrated in vacuo. The residue was purified via column chromatography on silica gel (Biotage 50 g column, gradient elution with 25-35% ethyl acetate in hexanes) to afford tert-butyl 2-methyl-4-oxopiperidine-1-carboxylate (0.660 g, 93%) as a white solid. 1H NMR (300 MHz, DMSO-d6) δ ppm 1.06 (d, J=6.74 Hz, 3H), 1.40 (s, 9H), 2.11-2.25 (m, 2H), 2.36-2.45 (m, 1H), 2.68 (dd, J=14.51, 6.6 Hz, 1H), 3.25-3.36 (m, 1H), 3.93-4.06 (m, 1H), 4.42-4.48 (m, 1H).

reactant | Di-tert-butyl dicarbonate | 5.01 mmol, 1.09 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 2-methylpiperidin-4-one hydrochloride | 3.34 mmol, 0.500 g | Cl.CC1NCCC(C1)=O
catalyst | DMAP | 6.68 mmol, 0.817 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | tert-butyl 2-methyl-4-oxopiperidine-1-carboxylate | 0.660 g, 93% | CC1N(CCC(C1)=O)C(=O)OC(C)(C)C | C11H19NO3
